US07745452B2
To a −15° C. solution of 6-fluoro-4-hydroxy-4-phenyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (3.00 g, 8.82 mmol) in THF (40 mL) was added triethylamine (6.14 mL, 44.08 mmol). The reaction was stirred for a couple of minutes and then thionyl chloride (0.68 mL, 9.26 mmol) was added dropwise. After 25 min, 1M ethylmagnesium bromide in THF (27.33 mL, 27.33 mmol) was added over 10 min. After an additional 30 min at −15° C., the reaction was quenched with saturated ammonium chloride solution (60 mL) and extracted with CH2Cl2 (120 mL×2). The combined organics were washed with brine (60 mL), dried over dried over Na2SO4, filtered, and concentrated in vacuo. Purification by normal phase chromatography (0-70% EtOAc/hexanes) followed by chiral reverse phase chromatography (ChiralPak AD packing, 10-60% iPrOH/hexanes with DEA modifier) yielded a yellow residue that was taken up in a minimal amount of CH2Cl2, diluted with hexanes, and then concentrated in vacuo to give (−)-4-ethyl-6-fluoro-4-phenyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one. 1H NMR (CDCl3, 400 MHz) 8.26 (s, NH); 7.38 (m, 5H, ArH); 6.85 (m, 1H, ArH); 6.70 (m, 1H, ArH); 6.25 (m, 1H, ArH); 3.92 (m, 1H, CH2); 3.48 (m, 1H, CH2); 2.35 (m, 2H, CH2); 0.91 (t, J=6.87 Hz, 3H, CH3); MS (Electrospray): m/z 353.1292 (M+H); [α]D=−41.8° (c0.11, MeOH). For the (+)-enantiomer, [α]D=+41.1° (c0.12, MeOH).

reactant | 6-fluoro-4-hydroxy-4-phenyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 8.82 mmol, 3.00 g | FC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C1=CC=CC=C1)O | C16H12F4N2O2
reactant | triethylamine | 44.08 mmol, 6.14 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 9.26 mmol, 0.68 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethylmagnesium bromide | 1M | C(C)[Mg]Br
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 27.33 mmol, 27.33 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (−)-4-ethyl-6-fluoro-4-phenyl-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | C(C)C1(N(C(NC2=CC=C(C=C12)F)=O)CC(F)(F)F)C1=CC=CC=C1 | C18H16F4N2O
